* File: /home/eng/s/sxv240035/cad/gf65/lib_cell/OAI22/HSPICE/OAI22.pex.sp.pex
* Created: Thu Oct 24 16:10:19 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22%NET12 3 6 7 11 13 14 17 20 21 23
r52 17 23 10
r53 15 17 0.492558
r54 13 15 0.0479452
r55 13 14 0.775741
r56 11 21 10
r57 9 11 0.382378
r58 8 14 0.0479585
r59 8 11 0.484664
r60 6 9 0.0479585
r61 6 7 0.736071
r62 3 20 10
r63 1 7 0.0479585
r64 1 3 0.38429
.ends

.subckt PM_OAI22%GND! 1 6 12 18
r51 6 18 10
r52 4 12 0.00816527
r53 4 6 0.771383
r54 1 12 30
.ends

.subckt PM_OAI22%OUT 3 9 10 13 18 21 22
r47 21 22 10
r48 16 21 1.48841
r49 13 16 1.7
r50 11 16 0.6271
r51 9 11 0.0476987
r52 9 10 0.17146
r53 6 18 30
r54 3 6 0.367355
r55 3 18 10
r56 1 10 0.0475524
r57 1 3 0.89359
.ends

.subckt PM_OAI22%VDD! 1 6 12 16 25 29 32 33
r40 20 33 30
r41 16 20 0.382378
r42 16 33 10
r43 14 29 0.00512096
r44 14 20 0.607025
r45 13 25 0.0418089
r46 12 29 0.0418089
r47 12 13 1.80031
r48 10 32 30
r49 6 10 0.382378
r50 6 32 10
r51 4 25 0.00512096
r52 4 10 0.609893
r53 1 25 15
.ends

.subckt PM_OAI22%B 4 6 10 12 14 17 23
r35 20 23 4.21922
r36 17 20 25
r37 14 17 1.7
r38 6 12 66.6116
r39 5 23 3.83544
r40 5 6 92.5388
r41 4 23 3.83544
r42 3 10 35.8678
r43 3 4 113.65
.ends

.subckt PM_OAI22%D 4 6 10 12 14 17 23
r47 20 23 4.21922
r48 17 20 25
r49 14 17 1.7
r50 6 12 66.6116
r51 5 23 3.83544
r52 5 6 92.5388
r53 4 23 3.83544
r54 3 10 35.8678
r55 3 4 113.65
.ends

.subckt PM_OAI22%C 4 6 10 12 14 17 23
r50 20 23 4.21922
r51 17 20 25
r52 14 17 1.7
r53 6 12 66.6116
r54 5 23 3.83544
r55 5 6 92.5388
r56 4 23 3.83544
r57 3 10 35.8678
r58 3 4 113.65
.ends

.subckt PM_OAI22%A 4 6 10 12 14 22 23
r33 22 23 25
r34 19 22 4.18701
r35 14 23 1.7
r36 6 12 66.6116
r37 5 19 3.83544
r38 5 6 92.5388
r39 4 19 3.83544
r40 3 10 35.8678
r41 3 4 113.65
.ends

